US08232272B2
To 15 ml of acetonitrile are added 2.9 g (10.1 mM) of 5-(4-chloro-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one and 5 ml (50 mM) of isobutylamine. The reaction medium is maintained at 60° C. for 20 hours with stirring and is then concentrated under vacuum. The residue obtained is purified on silica using dichloromethane as eluent. The product obtained is taken up and crystallised from diethyl ether. The solid is filtered off and washed to give 2.6 g of 5-[4-(isobutylamino)-3-nitrophenyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one.

reactant | 5-(4-chloro-3-nitrophenyl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 10.1 mM, 2.9 g | ClC1=C(C=C(C=C1)C1=NNC(SC1C)=O)[N+](=O)[O-] | C10H8ClN3O3S
reactant | isobutylamine | 50 mM, 5 ml | C(C(C)C)N | C4H11N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-[4-(isobutylamino)-3-nitrophenyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 2.6 g, Yield: 80.6% | C(C(C)C)NC1=C(C=C(C=C1)C1=NNC(SC1C)=O)[N+](=O)[O-] | C14H18N4O3S
